US09034880B2
2,3,4,5-tetrahydro-2,8-dimethyl-5-(3-(pyridin-2-yl)prop-2-ynyl)-1H-pyrido[4,3-b]indole (20 mg, 0.06 mmol) was hydrogenated in methanol (2 ml) with 10% Pd—C (10 mg) at 1 atm of hydrogen to obtain 5 mg of 2,3,4,5-tetrahydro-2,8-dimethyl-5-(3-(pyridin-2-yl)propyl)-1H-pyrido[4,3-b]indole after purification on neutral alumina chromatography eluting with methanol-dichloromethane gradient. The free base was converted into its HCl salt by treatment of ethanolic HCl.

reactant | 2,3,4,5-tetrahydro-2,8-dimethyl-5-(3-(pyridin-2-yl)prop-2-ynyl)-1H-pyrido[4,3-b]indole | 0.06 mmol, 20 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC#CC2=NC=CC=C2)CC1 | C21H21N3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 2 ml | CO | CH4O
catalyst | Pd—C | 10 mg | [Pd] | Pd
product | 2,3,4,5-tetrahydro-2,8-dimethyl-5-(3-(pyridin-2-yl)propyl)-1H-pyrido[4,3-b]indole | 5 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CCCC2=NC=CC=C2)CC1 | C21H25N3
